US06291452B1
To a suspension of sodium hydride (31 mg, 60% in mineral oil) in tetrahydrofuran was added ethyl diethylphosphonoacetate (195 mg) under stirring and cooling in an ice-bath. After stirring for 15 minutes, a solution of N-[(3RS)-1-(azacyclooctan-1-yl)carbonylmethyl-2,3-dihydro-5-formyl-9-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl]-N′-(3-methylphenyl)urea (300 mg) in tetrahydrofuran (5 ml) was added to the reaction mixture under the same conditions. The mixture was stirred at ambient temperature for 4 hours. To a reaction mixture was added 0.1N aqueous hydrochloric acid (20 ml) and the resultant mixture was extracted with ethyl acetate. The separated organic layer was washed with water and brine, and dried over magnesium sulfate. The solvent was evaporated in vacuo to afford a residue, which was subjected to column chromatography on silica gel eluting with a mixture of toluene and ethyl acetate (3:1) to give N-[(3RS)-1-(azacyclooctan-1-yl)carbonylmethyl-2,3-dihydro-5-((EZ)-2-(ethoxycarbonyl)ethenyl)-9-methyl-2-oxo-1H-1,4-benzodiazepin -3-yl]-N′-(3-methylphenyl)urea (266 mg, 77.8% yield) as crystalline powder.

reactant | sodium hydride | 31 mg | [H-].[Na+]
reactant | ethyl diethylphosphonoacetate | 195 mg | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | N-[(3RS)-1-(azacyclooctan-1-yl)carbonylmethyl-2,3-dihydro-5-formyl-9-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl]-N′-(3-methylphenyl)urea | 300 mg | N1(CCCCCCC1)C(=O)CN1C(C(N=C(C2=C1C(=CC=C2)C)C=O)NC(=O)NC2=CC(=CC=C2)C)=O | C28H33N5O4
reactant | hydrochloric acid | 0.1N, 20 ml | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-[(3RS)-1-(azacyclooctan-1-yl)carbonylmethyl-2,3-dihydro-5-((EZ)-2-(ethoxycarbonyl)ethenyl)-9-methyl-2-oxo-1H-1,4-benzodiazepin -3-yl]-N′-(3-methylphenyl)urea | 266 mg, 77.8% yield | N1(CCCCCCC1)C(=O)CN1C(C(N=C(C2=C1C(=CC=C2)C)C=CC(=O)OCC)NC(=O)NC2=CC(=CC=C2)C)=O | C32H39N5O5
